US04788195
3-(Dimethylamino)-1-(1H-pyrrol-2-yl)-(E)-2-propen-1-one
A mixture of 39.6 g of 2-acetylpyrrole and 104 ml (87.7 g) of tert-butoxy bis(dimethylamino)methane was heated on a steam bath for 20 minutes. The reaction was allowed to subside, then heating was continued for 6 hours. The mixture solidified then was slurried in hexane with chilling. The crude product was collected, washed with hexane and dried. The solid was dissolved in chloroform containing 5% methanol and filtered through magnesium silicate. The eluent was evaporated in vacuo and the residue was recrystallized from dichloromethane/hexane containing a small amount of methanol. The solid was collected, washed with hexane then dried in vacuo giving 25.1 g of the desired compound as yellow crystals, mp 192°-193° C. (dec.).

reactant | 2-acetylpyrrole | 39.6 g | C(C)(=O)C=1NC=CC1 | C6H7NO
reactant | tert-butoxy bis(dimethylamino)methane | 104 ml, 87.7 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | hexane | CCCCCC | C6H14
product | 3-(Dimethylamino)-1-(1H-pyrrol-2-yl)-(E)-2-propen-1-one | 25.1 g | CN(/C=C/C(=O)C=1NC=CC1)C | C9H12N2O
